US04839360
A mixture of 200 mg of 5-(4-chlorophenyl)-δ-valerolactone, 0.5 g of aniline, 20 mg of p-toluenesulfonic acid and 10 ml of xylene was refluxed for 6 hours. After removal of solvent, the residue was extracted with ethyl acetate. The extract was washed with diluted hydrochloric acid and a saturated aqueous sodium chloride solution and dried. After removal of the solvent, the residue was purified, by silica gel thin layer chromatography (solvent; chloroform:methanol=10:1) to give 60 mg of 6-(4-chlorophenyl)-1-phenyl-2-piperidone.

reactant | 5-(4-chlorophenyl)-δ-valerolactone | 200 mg | ClC1=CC=C(C=C1)C1CCCC(=O)O1 | C11H11ClO2
reactant | aniline | 0.5 g | NC1=CC=CC=C1 | C6H7N
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(4-chlorophenyl)-1-phenyl-2-piperidone | 60 mg | ClC1=CC=C(C=C1)C1CCCC(N1C1=CC=CC=C1)=O | C17H16ClNO
